US08378107B2
Step 6: (3-{3-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-5-methyl-pyridin-2-yl}-4-methoxy-phenyl)-acetic acid ethyl ester
Cyclopropanecarboxylic acid (2-chloro-5-methyl-pyridin-3-ylmethyl)-ethyl-amide (0.120 g, 0.48 mmol), [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester (0.183 g, 0.57 mmol), and potassium carbonate (0.198 g, 1.43 mmol) were combined in DME and H2O. The mixture was purged with N2 for 10 minutes, and then tetrakis(triphenylphosphine)palladium(0) (0.055 g, 0.05 mmol) was added, and the reaction was stirred at 80° C. for 2 hours. Once no starting material was seen by analytical tlc, the mixture was diluted with H2O and extracted three times with EtOAc. The combined organic layers were washed with H2O and brine, dried over Na2SO4, decanted, and concentrated, and the residue was purified by silica gel chromatography (0-70% EtOAc in hexanes) to give the title compound.

reactant | Cyclopropanecarboxylic acid (2-chloro-5-methyl-pyridin-3-ylmethyl)-ethyl-amide | 0.48 mmol, 0.120 g | ClC1=NC=C(C=C1CN(C(=O)C1CC1)CC)C | C13H17ClN2O
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | 0.57 mmol, 0.183 g | C(C)OC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C17H25BO5
reactant | potassium carbonate | 1.43 mmol, 0.198 g | C([O-])([O-])=O.[K+].[K+]
solvent | DME | COCCOC | C4H10O2
solvent | H2O | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 0.055 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3-{3-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-5-methyl-pyridin-2-yl}-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)C1=NC=C(C=C1CN(CC)C(=O)C1CC1)C)=O | C24H30N2O4
